US08183246B2
4-{[(2R)-2-{[5-(4-Ethylphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}propyl](methyl)amino}-butyric acid
Add 0.6 ml 1 N sodium hydroxide solution to a solution of 100 mg (73% purity, 0.15 mmol) 4-{[(2R)-2-{[5-(4-ethylphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}propyl](methyl)amino}butyric acid methyl ester in 3 ml dioxan, and stir for 16 h at RT. After adding 0.7 ml 1 N hydrochloric acid, extract with ethyl acetate. Re-extract the aqueous phase twice more with ethyl acetate. Combine the organic phases, dry over sodium sulphate, and filter. Concentrate the filtrate by vacuum evaporation. Take up the oily residue in acetonitrile and purify by preparative RP-HPLC (gradient: water/acetonitrile). 57 mg (80% of theor.) of the desired product is obtained.

reactant | sodium hydroxide | 1 N, 0.6 ml | [OH-].[Na+]
reactant | 4-{[(2R)-2-{[5-(4-ethylphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}propyl](methyl)amino}butyric acid methyl ester | 0.15 mmol, 100 mg | COC(CCCN(C)C[C@@H](C)OC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)CC)C2=CC=CC=C2)=O | C29H33N3O4
reactant | hydrochloric acid | 1 N, 0.7 ml | Cl | ClH
solvent | dioxan | 3 ml | O1CCOCC1 | C4H8O2
product | 4-{[(2R)-2-{[5-(4-Ethylphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}propyl](methyl)amino}-butyric acid | C(C)C1=CC=C(C=C1)C1=C(OC=2N=CN=C(C21)O[C@@H](CN(CCCC(=O)O)C)C)C2=CC=CC=C2 | C28H31N3O4
